US07632832B2
4-(4-Cyano-2-oxo-2,3-dihydro-1H-imidazol-1-yl)-N-[(3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]piperidine-1-carboxamide
(3R)-3-Amino-5-phenyl-1-(2,2,2-trifluoroethyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one (38 mg, 0.114 mmol) (Y.-J. Shi et al., Tetrahedron, 1999, 55, 909-918) and triethylamine (0.017 mL, 0.120 mmol) were added to a solution of p-nitrophenylchloroformate (23 mg, 0.114 mmol) in tetrahydrofuran (15 mL) at 0 oC. After 1 h, 2-oxo-1-piperidin-4-yl-2,3-dihydro-1H-imidazole-4-carbonitrile (23 mg, 0.120 mmol) and additional triethylamine (0.034 μL, 0.240 mmol) were added. The reaction warmed to ambient temperature and was then heated to 50 oC. After 2 h, the reaction was concentrated and then partitioned between dichloromethane and saturated sodium bicarbonate. The organics were washed with water, brine, and dried over magnesium sulfate. Purification by silica gel chromatography (100% dichloromethane→7% methanol {1% ammonium hydroxide}/dichloromethane) gave the title compound (40 mg). MS 552.195 (M+1)

reactant | (3R)-3-Amino-5-phenyl-1-(2,2,2-trifluoroethyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 0.114 mmol, 38 mg | N[C@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F)=O | C17H14F3N3O
reactant | triethylamine | 0.120 mmol, 0.017 mL | C(C)N(CC)CC | C6H15N
reactant | 2-oxo-1-piperidin-4-yl-2,3-dihydro-1H-imidazole-4-carbonitrile | 0.120 mmol, 23 mg | O=C1N(C=C(N1)C#N)C1CCNCC1 | C9H12N4O
reactant | triethylamine | 0.240 mmol, 0.034 μL | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 4-(4-Cyano-2-oxo-2,3-dihydro-1H-imidazol-1-yl)-N-[(3R)-2-oxo-5-phenyl-1-(2,2,2-trifluoroethyl)-2,3-dihydro-1H-1,4-benzodiazepin-3-yl]piperidine-1-carboxamide | 40 mg | C(#N)C=1NC(N(C1)C1CCN(CC1)C(=O)N[C@H]1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(F)(F)F)=O)=O | C27H24F3N7O3
